US06894061B2
N-(3′-Methyl-1,1′-biphenyl-2-yl)propanamide
3′-Methyl-1,1′-biphenyl-2-ylamine was prepared from from 2-iodoaniline (2.97 g, 13.5 mmol), 3-methylphenylboronic acid (1.84 g, 13.5 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (0.33 g, 0.41 mmol), and a 5 N aqueous sodium hydroxide solution (5.4 mL, 27 mmol), according to the procedure and in the same manner as described in Example 32, Method A, Step a, to afford the intermediate biphenylamine as an oil (2.05 g, 83%). The title compound was prepared from the above intermediate biphenylamine (1.89 g, 10.3 mmol), propionic anhydride (2.64 mL, 20.6 mmol), 4-(N,N-dimethylamino)pyridine (0.12 g, 1.0 mmol), and pyridine (3.3 mL, 41 mmol), according to the same procedure, to yield N-(3′-methyl-1,1′-biphenyl-2-yl)propanamide as a solid (2.45 g, 99%), m.p. 83° C.;

reactant | biphenylamine | 10.3 mmol, 1.89 g | C=1(C(=CC=CC1)N)C1=CC=CC=C1 | C12H11N
reactant | propionic anhydride | 20.6 mmol, 2.64 mL | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | pyridine | 41 mmol, 3.3 mL | N1=CC=CC=C1 | C5H5N
catalyst | 4-(N,N-dimethylamino)pyridine | 1.0 mmol, 0.12 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | N-(3′-methyl-1,1′-biphenyl-2-yl)propanamide | 2.45 g, 99% | CC=1C=C(C=CC1)C1=C(C=CC=C1)NC(CC)=O | C16H17NO
